US06734312B2
A solution of 3,4-dimethoxythiophene (7.2 g, 50 mmol), meso-2,3-butanediol (5.4 g, 60 mmol), and p-toluenesulphonic acid (0.2 g) in toluene (100 ml) was heated at 100° C. under a continuous argon flow for 24 h. The reaction mixture was then poured into methylene chloride (200 mL) and the organic phase washed with a 1M aqueous solution of sodium hydrogen carbonate and brine, dried with anhydrous magnesium sulphate and concentrated. This resulted in a mixture of cis and trans product that could be separated by column chromatography, yielding pure cis (2.8 g, 16%) and trans (1.83 g, 11%) 2,3-dimethyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine.

reactant | 3,4-dimethoxythiophene | 50 mmol, 7.2 g | COC1=CSC=C1OC | C6H8O2S
reactant | meso-2,3-butanediol | 60 mmol, 5.4 g | C[C@H]([C@H](C)O)O | C4H10O2
reactant | p-toluenesulphonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-dimethyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine | 1.83 g, 11% | CC1C(OC=2C(O1)=CSC2)C | C8H10O2S
